.SubCkt GCH21A5C2J100JX01 [_net1] [_net2]
.param K01=1.0000e-11
.param M01=1.0000e+11
.param L02=6.4640e-11
.param M03=2.3410e-01
.param K04=6.6553e-11
.param M04=2.8071e+03
.param L05=3.1235e-11
.param M05=3.0446e-01
.param K06=6.8792e-13
.param L06=5.2528e-10
.param M06=2.6536e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GCH21A5C2J100JX01

.SubCkt GCH21A5C2J100FX01 [_net1] [_net2]
.param K01=1.0000e-11
.param M01=1.0000e+11
.param L02=6.4640e-11
.param M03=2.3410e-01
.param K04=6.6553e-11
.param M04=2.8071e+03
.param L05=3.1235e-11
.param M05=3.0446e-01
.param K06=6.8792e-13
.param L06=5.2528e-10
.param M06=2.6536e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GCH21A5C2J100FX01

.SubCkt GCH21A5C2J100GX01 [_net1] [_net2]
.param K01=1.0000e-11
.param M01=1.0000e+11
.param L02=6.4640e-11
.param M03=2.3410e-01
.param K04=6.6553e-11
.param M04=2.8071e+03
.param L05=3.1235e-11
.param M05=3.0446e-01
.param K06=6.8792e-13
.param L06=5.2528e-10
.param M06=2.6536e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net2 {K06}
L06 _net0506 _net2 {L06}
R06 _net0506 _net2 {M06}
.ends GCH21A5C2J100GX01

.SubCkt GCH21B5C2J681JX01 [_net1] [_net2]
.param K01=6.8000e-10
.param M01=1.0000e+11
.param L02=1.5344e-10
.param M03=2.5600e-03
.param K04=1.5843e-06
.param M04=9.3669e-03
.param K05=5.2576e-09
.param L05=9.5245e-11
.param M05=3.9590e-02
.param K06=3.7719e-09
.param L06=2.1170e-11
.param M06=6.1912e-01
.param K07=1.0167e-09
.param L07=3.0586e-11
.param M07=1.0208e+00
.param K08=4.4438e-10
.param L08=1.9722e-11
.param M08=3.0842e-01
.param K09=8.9633e-12
.param L09=4.5054e-11
.param M09=9.5413e-01
.param K10=8.5276e-13
.param L10=3.9459e-10
.param M10=5.6305e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
L06 _net0506 _net0607 {L06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net2 {K10}
L10 _net0910 _net2 {L10}
R10 _net0910 _net2 {M10}
.ends GCH21B5C2J681JX01

.SubCkt GCH21B5C2J681FX01 [_net1] [_net2]
.param K01=6.8000e-10
.param M01=1.0000e+11
.param L02=1.5344e-10
.param M03=2.5600e-03
.param K04=1.5843e-06
.param M04=9.3669e-03
.param K05=5.2576e-09
.param L05=9.5245e-11
.param M05=3.9590e-02
.param K06=3.7719e-09
.param L06=2.1170e-11
.param M06=6.1912e-01
.param K07=1.0167e-09
.param L07=3.0586e-11
.param M07=1.0208e+00
.param K08=4.4438e-10
.param L08=1.9722e-11
.param M08=3.0842e-01
.param K09=8.9633e-12
.param L09=4.5054e-11
.param M09=9.5413e-01
.param K10=8.5276e-13
.param L10=3.9459e-10
.param M10=5.6305e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
L06 _net0506 _net0607 {L06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net2 {K10}
L10 _net0910 _net2 {L10}
R10 _net0910 _net2 {M10}
.ends GCH21B5C2J681FX01

.SubCkt GCH21B5C2J681GX01 [_net1] [_net2]
.param K01=6.8000e-10
.param M01=1.0000e+11
.param L02=1.5344e-10
.param M03=2.5600e-03
.param K04=1.5843e-06
.param M04=9.3669e-03
.param K05=5.2576e-09
.param L05=9.5245e-11
.param M05=3.9590e-02
.param K06=3.7719e-09
.param L06=2.1170e-11
.param M06=6.1912e-01
.param K07=1.0167e-09
.param L07=3.0586e-11
.param M07=1.0208e+00
.param K08=4.4438e-10
.param L08=1.9722e-11
.param M08=3.0842e-01
.param K09=8.9633e-12
.param L09=4.5054e-11
.param M09=9.5413e-01
.param K10=8.5276e-13
.param L10=3.9459e-10
.param M10=5.6305e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
L06 _net0506 _net0607 {L06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net2 {K10}
L10 _net0910 _net2 {L10}
R10 _net0910 _net2 {M10}
.ends GCH21B5C2J681GX01

.SubCkt GCH21B5C2J152JX0A [_net1] [_net2]
.param K01=1.5000e-09
.param M01=1.0000e+11
.param L02=4.0966e-10
.param M03=1.0608e-02
.param K04=1.2374e-06
.param M04=5.5409e+03
.param K05=5.1149e-06
.param M05=1.2518e+02
.param K06=6.0349e-06
.param M06=2.1241e+01
.param K07=1.4126e-05
.param M07=1.3965e+00
.param K08=1.0874e-05
.param M08=3.4629e-01
.param K09=1.0865e-05
.param M09=4.9224e-02
.param L10=8.1849e-11
.param M10=8.6105e-01
.param L11=6.4390e-11
.param M11=1.6421e-02
.param K12=5.8077e-09
.param L12=3.1303e-11
.param M12=8.4971e-01
.param K13=2.2538e-09
.param L13=3.3048e-11
.param M13=9.6975e-01
.param K14=1.7603e-09
.param L14=1.3546e-11
.param M14=2.3928e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GCH21B5C2J152JX0A

.SubCkt GCH21B5C2J182JX0A [_net1] [_net2]
.param K01=1.8000e-09
.param M01=1.0000e+11
.param L02=3.4788e-10
.param M03=1.0744e-02
.param K04=1.9567e-06
.param M04=3.5039e+03
.param K05=9.2122e-06
.param M05=1.0669e+02
.param K06=5.3682e-06
.param M06=3.0182e+01
.param K07=2.7592e-05
.param M07=8.9434e-01
.param K08=1.4324e-05
.param M08=5.4915e-01
.param K09=1.1332e-05
.param M09=8.7650e-02
.param L10=6.7365e-11
.param M10=1.8600e+00
.param L11=4.9806e-11
.param M11=1.1279e-02
.param K12=6.1893e-09
.param L12=3.8643e-11
.param M12=1.0842e+00
.param K13=3.3111e-09
.param L13=3.0790e-11
.param M13=1.0490e+00
.param K14=3.5258e-10
.param L14=6.5996e-11
.param M14=3.6843e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GCH21B5C2J182JX0A

.SubCkt GCH21B5C2J222JX0A [_net1] [_net2]
.param K01=2.2000e-09
.param M01=1.0000e+11
.param L02=3.1459e-10
.param M03=4.8707e-03
.param K04=4.0700e-07
.param M04=7.4751e+04
.param K05=1.0290e-05
.param M05=2.6073e+01
.param K06=1.0486e-05
.param M06=1.9125e+01
.param K07=1.3846e-05
.param M07=1.2812e+00
.param K08=1.2956e-05
.param M08=1.3989e-01
.param K09=1.2371e-05
.param M09=5.6942e-03
.param L10=8.2624e-11
.param M10=9.6010e-03
.param K11=6.1746e-09
.param L11=5.0870e-11
.param M11=1.5177e+00
.param K12=3.8889e-09
.param L12=3.5496e-11
.param M12=1.0683e+00
.param K13=5.8288e-11
.param L13=1.2890e-10
.param M13=5.9936e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GCH21B5C2J222JX0A
